US08378104B2
Step D: 4-(4-iodo-1H-pyrazol-1-yl)cyclohexanone
A mixture of 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-iodo-1H-pyrazole (338 mg, 1.00 mmol), pyridinium p-toluenesulfonate (518 mg, 2.00 mmol), acetone (15 mL) and H2O (15 mL) was heated at 60° C. for 2 d. The mixture was extracted with EtOAc (3×30 mL). The combined extracts were washed with water (3×30 mL), brine (30 mL), dried over MgSO4, and concentrated in vacuo leaving 273 mg (89%) of the title compound as a white solid. 1H NMR (400 MHz, CDCl3): δ 2.23-2.63 (m, 8 H), 4.57-4.64 (m, 1 H), 7.51 (s, 1 H), 7.54 (s, 1 H). MS (ESI): 291.09 [M+H]+; HPLC tR=2.80 min.

reactant | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-4-iodo-1H-pyrazole | 1.00 mmol, 338 mg | O1CCOC12CCC(CC2)N2N=CC(=C2)I | C11H15IN2O2
reactant | pyridinium p-toluenesulfonate | 2.00 mmol, 518 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | acetone | 15 mL | CC(=O)C | C3H6O
solvent | H2O | 15 mL | O | H2O
product | 4-(4-iodo-1H-pyrazol-1-yl)cyclohexanone | 273 mg, 89% | IC=1C=NN(C1)C1CCC(CC1)=O | C9H11IN2O
